US07968573B2
A mixture of 0.72 g of ethyl 3-(2-chlorophenyl)-1-methyl-1H-pyrazole-4-carboxylate, 0.23 g of potassium hydroxide, 1 ml of water and 5 ml of ethanol was stirred at room temperature for 3 days. After the reaction mixture was concentrated under reduced pressure, water was poured into the resulting residue and the mixture was washed with methyl tert-butyl ether. The aqueous layer was adjusted to around pH 3 by an addition of a 10% aqueous citric acid, and then extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 0.61 g of 3-(2-chlorophenyl)-1-methyl-1H-pyrazole-4-carboxylic acid of the formula:

reactant | ethyl 3-(2-chlorophenyl)-1-methyl-1H-pyrazole-4-carboxylate | 0.72 g | ClC1=C(C=CC=C1)C1=NN(C=C1C(=O)OCC)C | C13H13ClN2O2
reactant | potassium hydroxide | 0.23 g | [OH-].[K+]
reactant | water | 1 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(2-chlorophenyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 0.61 g | ClC1=C(C=CC=C1)C1=NN(C=C1C(=O)O)C | C11H9ClN2O2
